US03953430
Preparation of 9-(2-Diethylaminoethyl)-4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one
A mixture of 0.31 g. of 55% sodium hydride-mineral oil dispersion and 0.60 g. of diethylaminoethylchloride hydrochloride in 25 ml. of dry dimethylformamide is stirred at room temperature for 0.5 hours. To the mixture is added 0.4 g. of 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one and stirring is continued for 18 hours. The reaction mixture is cooled, quenched with water and extracted with chloroform. The chloroform extracts are concentrated under reduced pressure to an oil, which is chromatographed on silica gel preparative thin layer chromatographic (tlc) plates using 10:1 benzene:methanol as eluent. The oily product is crystallized from hexane to give white crystals, m.p. 92°-93°C.

reactant | sodium hydride | [H-].[Na+]
reactant | diethylaminoethylchloride hydrochloride | Cl.C(C)N(CC)CCCl
reactant | 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C12H10N2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-(2-Diethylaminoethyl)-4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | C(C)N(CCN1C(C=2C(N(C3=C1C=CC=C3)C)=CSC2)=O)CC | C18H23N3OS
